US07247728B2
N-(6-Quinoxalinyl)quinuclidine-3-carboxamide Hydrochloride
In analogy to the method described in Example 2, 250 mg (2.57 mmol) of 3-quinuclidinecarbonyl chloride, 461 mg (3.57 mmol) of N,N-diisopropylethylamine, catalytic amounts of DMAP (approx. 1 mg) and 173 mg (1.19 mmol) of 6-quinoxalinylamine are reacted.

reactant | 3-quinuclidinecarbonyl chloride | 2.57 mmol, 250 mg | N12CC(C(CC1)CC2)C(=O)Cl | C8H12ClNO
reactant | N,N-diisopropylethylamine | 3.57 mmol, 461 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6-quinoxalinylamine | 1.19 mmol, 173 mg | N1=CC=NC2=CC(=CC=C12)N | C8H7N3
catalyst | DMAP | approx. 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(6-Quinoxalinyl)quinuclidine-3-carboxamide Hydrochloride | Cl.N1=CC=NC2=CC(=CC=C12)NC(=O)C1CN2CCC1CC2 | InChI=1S/C16H18N4O.ClH/c21-16(13-10-20-7-3-11(13)4-8-20)19-12-1-2-14-15(9-12)18-6-5-17-14;/h1-2,5-6,9,11,13H,3-4,7-8,10H2,(H,19,21);1H
